US07585885B2
2-Chloro-6-(methanesulfonyl-methylamino)-isonicotinic acid methyl ester
Add sodium hydride (257 mg, 6.43 mmol, 60% dispersion in mineral oil) at 0° C. to a solution of 2-chloro-6-methanesulfonylamino-isonicotinic acid methyl ester (1.31 g, 4.95 mmol) in DMF (10 mL). After stirring at 0° C. for 15 min, add iodomethane (0.4 mL, 6.43 mmol). Stir the reaction at 0° C. for 1 h and at room temperature for 2 h. Quench the reaction with ice and extract the reaction mixture with ethyl acetate. Wash the organic layer with saturated aqueous sodium chloride, dry (sodium sulfate), concentrate and purify (silica gel chromatography, eluting with 30:70 ethyl acetate:hexanes) to give the title compound (1.0 g, 72%).

reactant | sodium hydride | 6.43 mmol, 257 mg | [H-].[Na+]
reactant | 2-chloro-6-methanesulfonylamino-isonicotinic acid methyl ester | 4.95 mmol, 1.31 g | COC(C1=CC(=NC(=C1)NS(=O)(=O)C)Cl)=O | C8H9ClN2O4S
reactant | iodomethane | 6.43 mmol, 0.4 mL | IC | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-Chloro-6-(methanesulfonyl-methylamino)-isonicotinic acid methyl ester | 1.0 g, 72% | COC(C1=CC(=NC(=C1)N(C)S(=O)(=O)C)Cl)=O | C9H11ClN2O4S
